US04496551
Preparation of Chloromethyl(ethoxy)methyl(phenyl)silane
A solution of 18.2 ml (18.2 g, 0.10 mol) of chloromethyl(diethoxy)methylsilane in 200 ml of dry ether was stirred vigorously under N2 and chilled while 56 ml (0.10 mol) of 1.8 molar phenyllithium in 70:30 cyclohexane-ether was added at a rate that held the mixture below -50°. The resulting slurry was allowed to warm to room temperature, treated cautiously with 10 ml of ethyl acetate, washed with water and brine, dried over magnesium sulfate, and evaporated to leave 16.8 g of a golden yellow liquid. Distillation provided 9.5 g (44%) of the title compound as a colorless liquid: bp 80°-84° (0.1 mm); nD20 1.5144; nmr (CDCl3) 0.5 (3H, s), 1.2 (3H, t, J=7), 3.0 (2H, s), 3.8 (2H, q, J=7), 7.2-7.8 (5H, m).

reactant | chloromethyl(diethoxy)methylsilane | 0.10 mol, 18.2 ml, 18.2 g | ClC[SiH2]C(OCC)OCC | C6H15ClO2Si
reactant | phenyllithium | 0.10 mol, 1.8 molar, 56 ml | C1(=CC=CC=C1)[Li]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 200 ml | CCOCC | C4H10O
product | Chloromethyl(ethoxy)methyl(phenyl)silane | 16.8 g | ClC[Si](C1=CC=CC=C1)(C)OCC | C10H15ClOSi
